### PR TITLE
feat: iteratedFDeriv as a linear map on test functions

### PR DESCRIPTION
**Pull request by ADedecker**
Add `TestFunction.iteratedFDeriv[WithOrder]LM`, analogous to [ContDiffMapSupportedIn.iteratedFDerivWithOrderLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.iteratedFDerivWithOrderLM) and [ContDiffMapSupportedIn.iteratedFDerivLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.iteratedFDerivLM)

---

Co-authored-by: @luigi-massacci 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TestFunction.lean [hunk 1]
```diff
@@ -407,4 +407,108 @@ lemma postcompCLM_apply (T : F →L[𝕜] F')
...
+  rw [iteratedFDerivWithOrderLM]
+  split_ifs <;> rfl
+
+lemma iteratedFDerivWithOrderLM_apply_of_le [SMulCommClass ℝ 𝕜 F] {i : ℕ} (f : 𝓓^{n}(Ω, F))
+    (hin : k + i ≤ n) :
+    iteratedFDerivWithOrderLM 𝕜 n k i f = iteratedFDeriv ℝ i f := by
+  simp [hin]
+
+lemma iteratedFDerivWithOrderLM_apply_of_gt [SMulCommClass ℝ 𝕜 F] {i : ℕ} (f : 𝓓^{n}(Ω, F))
+    (hin : ¬ (k + i ≤ n)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/TestFunction.lean:466]:
```suggestion
lemma iteratedFDerivWithOrderLM_apply_of_gt [SMulCommClass ℝ 𝕜 F] {i : ℕ} (f : 𝓓^{n}(Ω, F))
    (hin : n < k + i) :
```

File: Mathlib/Analysis/Distribution/TestFunction.lean [hunk 2]
```diff
@@ -407,4 +407,108 @@ lemma postcompCLM_apply (T : F →L[𝕜] F')
...
+variable (𝕜) in
+/-- `iteratedFDerivLM 𝕜 i` is the `𝕜`-linear-map sending `f : 𝓓(Ω, F)` to
+its `i`-th iterated derivative as an element of `𝓓(Ω, E [×i]→L[ℝ] F)`.
+
+See also `iteratedFDerivWithOrderLM` if you need more control on the regularities.
+
+This is subsumed by `iteratedFDerivCLM` (not yet in Mathlib), which also bundles the
+continuity. -/
+noncomputable def iteratedFDerivLM [SMulCommClass ℝ 𝕜 F] (i : ℕ) :
+    𝓓(Ω, F) →ₗ[𝕜] 𝓓(Ω, E [×i]→L[ℝ] F) where
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/TestFunction.lean:486]: As I commented on Luigi's PR #30240, I think this (and the other declarations that already exist like this) should be an `abbrev`. I think the fears about the `if` showing up are overblown, and it would be better to have fewer distinct definitions floating around. Currently, we're talking about having *all* of the following:

`{iteratedFDeriv, FDeriv} × {LM, CLM} × {WithOrder, ⊤} × {TestFunctions, Distributions}` which is already 16 (!!) closely related declarations. It would be nice to cut those in half.

**Review by j-loreaux — COMMENTED** [review]
I have some minor concern here.
